US08114872B2
Methanesulfonic acid 1-(6-fluoro-4-iodo-pyridin-3-yl)-ethyl ester
Add methanesulfonyl chloride (1.93 g, 16.8 mmol) to a solution of 1-(6-fluoro-4-iodo-pyridin-3-yl)-ethanol (1.5 g, 5.6 mmol) and diisopropylethylamine (2.2 g, 16.8 mmol) in DCM (50 mL) at 0° C. Continue to stir the mixture at 0° C. to RT for 4 h. Dilute the reaction mixture with diluted sodium carbonate. Extract the product into chloroform. Dry the organic phase over sodium sulfate. Concentrate the solution in vacuo. Purify the crude by column chromatography (20% ethyl acetate in hexane) to afford the title compound as a white solid (1.24 g, 64%). MS (ES) m/z 346 [M+1]+.

reactant | methanesulfonyl chloride | 16.8 mmol, 1.93 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(6-fluoro-4-iodo-pyridin-3-yl)-ethanol | 5.6 mmol, 1.5 g | FC1=CC(=C(C=N1)C(C)O)I | C7H7FINO
reactant | diisopropylethylamine | 16.8 mmol, 2.2 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | Methanesulfonic acid 1-(6-fluoro-4-iodo-pyridin-3-yl)-ethyl ester | 1.24 g, 64% | FC1=CC(=C(C=N1)C(C)OS(=O)(=O)C)I | C8H9FINO3S
